US05369110
36 ml (367 mmol) of butylamine are added to a solution of 20.0 g (73.5 mmol) of 4-bromomethyl-2'-cyano-biphenyl (cf. EP 253,310, page 159) in 150 ml dioxane and the mixture is heated under reflux for 3 hours. The reaction mixture is then concentrated by evaporation in vacuo and the residue is partitioned between 300 ml of diethyl ether and 100 ml of water. The ethereal phase is washed twice with water, dried and concentrated by evaporation. The resulting oil is flash-chromatographed on 500 g of silica gel [toluene/methanol(19:1)]. The fractions containing the product are concentrated by evaporation to yield N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine in the form of a yellow oil that has an Rf value of 0.34 [toluene/methanol (4:1)].

reactant | butylamine | 367 mmol, 36 ml | C(CCC)N | C4H11N
reactant | 4-bromomethyl-2'-cyano-biphenyl | 73.5 mmol, 20.0 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine | C(CCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C18H20N2
